US06211199B1
78.2 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-2-oxopyrrolidine (1.55 g, 3.66 mmol) and tetrahydrofuran (10 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of sec-butyllithium (3.1 mL, 1.3 M in hexane, 4.0 mmol). After 30 minutes, add a solution of 1-iodo-2-(t-butyldimethylsilyloxy)ethane (1.15 g, 4.0 mmol) in tetrahydrofuran (1 mL). After 2 hours, warm to ambient temperature. After 12 hours, add water (5 mL). Separate the layers and extract the aqueous layer three times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/4 ethyl acetate/hexane to give the title compound: Rf=0.79 (silica gel, 1/1 ethyl acetate/hexane).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-2-oxopyrrolidine | 3.66 mmol, 1.55 g | COC=1C=C(CN2C(C(CC2)CC2=CC=C(C=C2)C(F)(F)F)=O)C=C(C1OC)OC | C22H24F3NO4
reactant | sec-butyllithium | 4.0 mmol, 1.3 M, 3.1 mL | C(C)(CC)[Li]
reactant | 1-iodo-2-(t-butyldimethylsilyloxy)ethane | 4.0 mmol, 1.15 g | ICCO[Si](C)(C)C(C)(C)C | C8H19IOSi
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)C(F)(F)F)=O)C=C(C1OC)OC | C30H42F3NO5Si
